US06194410B1
A solution of 2.69 g (10 mmol) 4-benzenesulphonyl-5-methylsulphanyl-2H-pyrazol-3-ylamine and 1.46 g (10 mmol) of ethyl 4-methoxy-acetoacetate in 10 ml of acetic acid was heated at reflux for 3 hrs. The reaction solution was evaporated and the residue was partitioned between H2O and CH2Cl2. The aqueous phase was extracted three times with 80 ml of CH2Cl2. The combined organic phases were dried (MgSO4), filtered and evaporated. Chromatography (SiO2, CH2Cl2/MeOH 25:1) yielded 3.1 g (85%) of 3-benzenesulphonyl-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol as a beige powder, m.p. 175-155°.

reactant | 4-benzenesulphonyl-5-methylsulphanyl-2H-pyrazol-3-ylamine | 10 mmol, 2.69 g | C1(=CC=CC=C1)S(=O)(=O)C1=C(NN=C1SC)N | C10H11N3O2S2
reactant | ethyl 4-methoxy-acetoacetate | 10 mmol, 1.46 g | COCC(CC(=O)OCC)=O | C7H12O4
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 3-benzenesulphonyl-5-methoxymethyl-2-methylsulphanyl-pyrazolo[1,5-a]pyrimidin-7-ol | 3.1 g, 85% | C1(=CC=CC=C1)S(=O)(=O)C=1C(=NN2C1N=C(C=C2O)COC)SC | C15H15N3O4S2
